US05166203
Preparation of 4-chloromethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione [compound (V)]
3-Chloro-2-oxopropyl N-(2,3,4-trifluorophenyl)-dithiocarbamate (4.0 g) is added to 30% hydrogen chloridemethanol solution (15 ml), and the mixture is refluxed for 3 hours. The solvent is distilled off under reduced pressure, and cold water is added to the residue and the mixture is extracted with chloroform. The extract is washed with saline solution, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue is recrystallized from cyclohexane to give the title compound (2.6 9) as pale yellow crystals.

reactant | 3-Chloro-2-oxopropyl N-(2,3,4-trifluorophenyl)-dithiocarbamate | 4.0 g | FC1=C(C=CC(=C1F)F)NC(SCC(CCl)=O)=S | C10H7ClF3NOS2
reactant | hydrogen | [H][H] | H2
product | 4-chloromethyl-3-(2,3,4-trifluorophenyl)-2(3H)-thiazolethione | ClCC=1N(C(SC1)=S)C1=C(C(=C(C=C1)F)F)F | C10H5ClF3NS2
